US06727264B1
N-(3-{1-[(2R)-3-(3-BROMOPHENOXY)-2-METHYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme B1 using 3-bromophenyl(2S)-3-chloro-2-methylpropyl ether and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 473.0 (M+H)+.

reactant | 3-bromophenyl(2S)-3-chloro-2-methylpropyl ether | ClC[C@H](COC1=CC(=CC=C1)Br)C | C10H12BrClO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[(2R)-3-(3-BROMOPHENOXY)-2-METHYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | BrC=1C=C(OC[C@@H](CN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C)C=CC1 | C25H33BrN2O2
